US06468487B1
The reaction was effected in the same manner as Example 65 except for using Raney nickel (5 mole % of Ni relative to a substrate) instead of 5% Pd-C and that reacting for 4 hours. The conversion of 1,3-dinitroadamantane was 99%, and 1-amino-3-nitroadamantane (yield 80%) was formed.

reactant | 1,3-dinitroadamantane | [N+](=O)([O-])C12CC3(CC(CC(C1)C3)C2)[N+](=O)[O-] | C10H14N2O4
catalyst | Raney nickel | [Ni] | Ni
catalyst | Pd-C | [Pd] | Pd
product | 1-amino-3-nitroadamantane | yield 80% | NC12CC3(CC(CC(C1)C3)C2)[N+](=O)[O-] | C10H16N2O2
